US08053440B2
A mixture of 3-chloro-4-hydroxy-benzaldehyde (227 mg, 1.45 mmol), (2-bromoethoxy)-tert-butyldimethylsilane (347 mg, 1.45 mmol), cesium carbonate (709 mg, 2.18 mmol) and DMSO (2 mL) was stirred at 80° C. for 17 h. The reaction mixture was cooled to room temperature and water (50 mL) was added. The resulting precipitate was filtered off, washed with water, air-dried, dissolved in a small amount of ethyl acetate and purified by column chromatography. 4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-3-chloro-benzaldehyde was obtained as a white solid (yield: 267 mg, 58%). To a 100 mL round-bottomed flask was added 2-amino-4,6-dimethoxy-benzamide (166 mg, 0.85 mmol), 4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-3-chloro-benzaldehyde (267 mg, 0.85 mmol), p-toluenesulfonic acid monohydrate (21 mg, 0.11 mmol), sodium hydrogensulfite (216 mg, 1.2 mmol) and dimethylacetamide (5 mL). The mixture was stirred in a 150° C. oil bath under nitrogen for 17 h. After cooling to room temperature, water (50 mL) was added. The precipitate was filtered off, washed with water and air-dried. The crude product was purified by column chromatography to give 2-(3-chloro-4-(2-hydroxyethoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (45 mg, 23%). Selected data: MS (ES) m/z: 377.03; MP 287-288° C. (decomposed).

reactant | 3-chloro-4-hydroxy-benzaldehyde | 1.45 mmol, 227 mg | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 1.45 mmol, 347 mg | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | cesium carbonate | 2.18 mmol, 709 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | 4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-3-chloro-benzaldehyde | C(C)(C)(C)[Si](OCCOC1=C(C=C(C=O)C=C1)Cl)(C)C | C15H23ClO3Si
